US08378107B2
Step 1: Benzyl-(3-bromo-quinolin-2-ylmethyl)-amine
Prepared according to the procedure described in Example 8, Step 2, using the following starting materials: 3-bromo-quinoline-2-carbaldehyde and benzylamine

reactant | 3-bromo-quinoline-2-carbaldehyde | BrC=1C(=NC2=CC=CC=C2C1)C=O | C10H6BrNO
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | Benzyl-(3-bromo-quinolin-2-ylmethyl)-amine | C(C1=CC=CC=C1)NCC1=NC2=CC=CC=C2C=C1Br | C17H15BrN2
